US04170465
29 g of diketene were added over 20 minutes to a stirred mixture of 39 g of 4-methylcyclohexylamine in 100 ml of tetrahydrofuran and the mixture was stirred at 20° C. for 3 hours. Isopropyl ether was added thereto and the precipitate formed was recovered by vacuum filtration, was washed and dried to obtain 46 g of N-(4-methylcyclohexyl)-acetylacetamide melting at 111° C. A mixture of 46 g of the latter product, 37 g of methyl orthoformate, 1.5 g of p-toluene sulfonic acid and 100 ml of methanol was stirred for 2 hours at 20° C. and after standing for 16 hours, 3 ml of quinoline were added thereto. The mixture was distilled to dryness under reduced pressure and the residue was added to toluene. The stirred mixture was heated at 145° C. for 3 hours while distilling a toluene-methanol azeotrope and was then cooled and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and elution with an 8-2 methylene chloride-acetone mixture gave 24 g of N-(4'-methylcyclohexyl)-3-methoxy-crotonamide melting at 125° C. The RMN spectra showed the product to be the E isomer.

reactant | diketene | 29 g | C=C1CC(=O)O1 | C4H4O2
reactant | 4-methylcyclohexylamine | 39 g | CC1CCC(CC1)N | C7H15N
reactant | Isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(4-methylcyclohexyl)-acetylacetamide | 46 g | CC1CCC(CC1)NC(CC(C)=O)=O | C11H19NO2
